US07560569B2
In a similar manner to Example 13, (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 2-fluoroethylamine hydrochloride (11.2 mg) were used to obtain (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(N-2-fluoroethylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (33.9 mg).

reactant | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
reactant | 2-fluoroethylamine hydrochloride | 11.2 mg | Cl.FCCN
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(N-2-fluoroethylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 33.9 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)NCCF)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C26H32F2N4O4
